US04322429
3-(3-(TRIFLUOROMETHYL)PHENYL)-5-AMINOISOXAZOLE
3-(Trifluoromethyl)benzoylacetonitrile (3.8 grams) and 125 ml. ethanol were placed in a 500 ml. flask. The solution was treated with sodium acetate (12 grams) and hydroxylamine.hydrochloride (9 grams in 125 ml. water) and then heated to reflux for two hours. After cooling to room temperature, the ethanol was removed and the residue extracted with ether. The ether extracts were then washed with water, brine, and dried with MgSO4. The solid residue obtained was recrystallized from an ethanol/water solution, m.p. 89°-90° C.

reactant | 3-(Trifluoromethyl)benzoylacetonitrile | 3.8 grams | FC(C=1C=C(C(=O)CC#N)C=CC1)(F)F | C10H6F3NO
reactant | sodium acetate | 12 grams | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine.hydrochloride | 125 ml, 9 grams | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-(TRIFLUOROMETHYL)PHENYL)-5-AMINOISOXAZOLE | FC(C=1C=C(C=CC1)C1=NOC(=C1)N)(F)F | C10H7F3N2O
